US05859007
To a stirring solution of 2.0 g (13.87 mmol) of methyl acetopyruvate in 40 mL of absolute ethanol at 0° C. is added 0.48 mL (15.27 mmol, 1.1 equiv) of hydrazine. The resultion solution is stirred for 1 h at RT then heated to reflux for 3 h. The solution is then cooled to RT and the solvent removed in vacuo to give 5-methyl-2H-pyrazole-3-carboxylic acid methyl ester as a clear yellow oil which is used without further purification: 1H NMR (CDCl3, 300 MHz) δ6.61 (s, 1H), 3.97 (s, 3H),2.40 (s, 3H).

reactant | methyl acetopyruvate | 13.87 mmol, 2.0 g | CC(=O)CC(=O)C(=O)OC | C6H8O4
reactant | hydrazine | 15.27 mmol, 0.48 mL, 1.1 equiv | NN | H4N2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-methyl-2H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C=1NN=C(C1)C | C6H8N2O2
